US08541588B2
4-[2-(5-amino-1H-pyrazol-4-yl)-4-chlorophenoxy]-5-chloro-2-fluoro-N-1,3,4-thiadiazol-2-ylbenzenesulfonamide
The title compound was prepared from N-[1-tert-Butyl-4-(5-chloro-2-hydroxyphenyl)-1H-pyrazol-3-yl]-2,2,2-trifluoroacetamide (Preparation 209) and 5-chloro-N-(2,4-dimethoxybenzyl)-2,4-difluoro-N-1,3,4-thiadiazol-2-ylbenzenesulfonamide (Preparation 247) using Method B above with the exception that heating at 55° C. in HCl (gas) saturated methanol for 16 hours was used to remove the protecting groups. Purification by preparative HPLC afforded the title compound.

reactant | N-[1-tert-Butyl-4-(5-chloro-2-hydroxyphenyl)-1H-pyrazol-3-yl]-2,2,2-trifluoroacetamide | C(C)(C)(C)N1N=C(C(=C1)C1=C(C=CC(=C1)Cl)O)NC(C(F)(F)F)=O | C15H15ClF3N3O2
reactant | 5-chloro-N-(2,4-dimethoxybenzyl)-2,4-difluoro-N-1,3,4-thiadiazol-2-ylbenzenesulfonamide | ClC=1C(=CC(=C(C1)S(=O)(=O)N(C=1SC=NN1)CC1=C(C=C(C=C1)OC)OC)F)F | C17H14ClF2N3O4S2
reactant | methanol | CO | CH4O
solvent | HCl | Cl | ClH
product | 4-[2-(5-amino-1H-pyrazol-4-yl)-4-chlorophenoxy]-5-chloro-2-fluoro-N-1,3,4-thiadiazol-2-ylbenzenesulfonamide | NC1=C(C=NN1)C1=C(OC2=CC(=C(C=C2Cl)S(=O)(=O)NC=2SC=NN2)F)C=CC(=C1)Cl | C17H11Cl2FN6O3S2
